US06265426B1
3-(2-Methyl-5-p-tolyl-2H-[1,2,4]triazol-3-yl)-benzaldehyde
Using 3-(3-[1,3]dioxolan-2-yl-phenyl)-5-p-tolyl-1H-[1,2,4]triazole (mixture of tautomers) and methyl iodide the title compound was obtained as white solid (41% yield), MS: m/e=277.1 (M+).

reactant | 3-(3-[1,3]dioxolan-2-yl-phenyl)-5-p-tolyl-1H-[1,2,4]triazole | O1C(OCC1)C=1C=C(C=CC1)C1=NNC(=N1)C1=CC=C(C=C1)C | C18H17N3O2
reactant | methyl iodide | CI | CH3I
product | 3-(2-Methyl-5-p-tolyl-2H-[1,2,4]triazol-3-yl)-benzaldehyde | CN1N=C(N=C1C=1C=C(C=O)C=CC1)C1=CC=C(C=C1)C | C17H15N3O
